US06610694B1
Production of 3-tert-Butyl-6-chloro[1,2,4]triazolo[4,3-b]pyridazine
2.78 g of N′-(6-chloro-3-pyridazinyl)-2,2-dimethylpropionohydrazide was stirred under heating at an external temperature of 170° C. for 10 minutes. After cooling, the reaction mixture was dissolved in ethyl acetate, subjected to silica gel column chromatography, and eluted with ethyl acetate. The desired fraction was collected and concentrated under reduced pressure; the precipitated crystal was washed with hexane and dried to yield 2.38 g of the title compound.

reactant | N′-(6-chloro-3-pyridazinyl)-2,2-dimethylpropionohydrazide | 2.78 g | ClC1=CC=C(N=N1)NNC(C(C)(C)C)=O | C9H13ClN4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-tert-Butyl-6-chloro[1,2,4]triazolo[4,3-b]pyridazine | 2.38 g | C(C)(C)(C)C1=NN=C2N1N=C(C=C2)Cl | C9H11ClN4
